US06627651B1
To N-(4-cyanophenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide (347 mg) was added a solution of 28% hydrogen chloride/ethanol/dioxane (5 ml). After the resulting mixture was stirred at room temperature for 20 hours, the precipitate was collected by filtration and was washed with ethyl acetate to obtain N-[4-(ethoxycarbonimidoyl)phenyl]-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide hydrochloride (369 mg) as yellow crystals.

reactant | N-(4-cyanophenyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide | 347 mg | C(#N)C1=CC=C(C=C1)NC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C25H20N2O2
reactant | hydrogen chloride ethanol dioxane | 5 ml | Cl.C(C)O.O1CCOCC1
product | N-[4-(ethoxycarbonimidoyl)phenyl]-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxamide hydrochloride | 369 mg | Cl.C(C)OC(=N)C1=CC=C(C=C1)NC(=O)C=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | InChI=1S/C27H26N2O3.ClH/c1-3-31-26(28)20-8-11-24(12-9-20)29-27(30)22-14-15-32-25-13-10-21(16-23(25)17-22)19-6-4-18(2)5-7-19;/h4-13,16-17,28H,3,14-15H2,1-2H3,(H,29,30);1H
